Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10]>>[C:6]([H:7])=[C:8]([H:9])[H:10].[O:1][O:2][C:3]([H:4])[H:5],3.54133308398
[C:6]([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])=[C:4][H:5]>>[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[H:12],-4.65618385477
[C:2]#[C:3][C:4]([H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12].[H:1]>>[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8][C:9]([H:10])([H:11])[H:12],-4.0970953024000005
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[H:3].[O:1]=[C:2][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10],4.39235060325
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][O:9][C:10]([H:11])([H:12])[H:13].[H:8]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-3.80278540582
[C:1]#[C:2][C:3]([C:4][O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2]/[C:3](=[C:4]\[O:5][H:6])[C:7]([H:8])[H:9].[H:10],3.83580269615
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:12][H:13]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:10](\[H:11])[O:12][H:13].[H:9],1.9672315204400004
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:7][C:8]([H:9])[H:10])=[C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])[H:10],7.239839505739999
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12]>>[C:7]([H:8])#[C:9][C:10]([H:11])[H:12].[H:1][C:2]#[C:3][C:4]([H:5])[H:6],3.0328680294200003
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:8](\[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15].[H:7],4.882323124080001
[C:2]([O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1]>>[H:1][C:2]([O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.73651095102
[H:1][O:2][C@:3]([H:4])([C:5][C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:8]([H:9])[H:10].[H:1][O:2][C@@:3]([H:4])([C:5]#[C:6][H:7])[C:11]([H:12])([H:13])[H:14],3.28563100961
[H:1][C:2]1[C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]1([H:11])[H:12]>>[H:1][C:2]([C:3]([H:4])([H:5])[C:6]=[C:7]([H:8])[H:9])=[C:10]([H:11])[H:12],-1.41028410996
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13].[H:7],2.0352100006
[H:1][C:2][O:3][C:4][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:5]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-4.74197689809
[C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11].[H:1]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],-3.62327337045
[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:9].[O:1]=[C:2]([H:3])[C:4]([H:5])([C:6]([H:7])=[O:8])[C:10]([H:11])([H:12])[H:13],1.63412095361
[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])[H:12]>>[C:10]([H:11])[H:12].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])[C:7]([H:8])=[O:9],4.138040635119999
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:13].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])=[C:11][H:12],4.9124997223
[H:1][O:2][C:3]([H:4])[C:5]1([H:6])[C:7]([H:8])([H:9])[C:10][C:11]1([H:12])[H:13]>>[H:1][O:2]/[C:3]([H:4])=[C:11](/[C:10]([C:7]=[C:5]([H:6])[H:13])([H:8])[H:9])[H:12],-2.48358023861
[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10].[O:1]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10],-4.18185858523
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],4.476518790769999
[H:1][C:2][O:3][C:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10]>>[C:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10].[H:1][C:2]=[O:3],0.13052215729
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:7],1.7404369159900002
[C:4]([H:5])([H:6])=[C:7][O:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12],0.816712507089
[O:1]=[C:2]([H:3])[C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11]>>[H:7].[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6]=[C:8]([H:9])[O:10][H:11],3.3773323321099995
[H:1][C:2]#[C:4][C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[H:13].[H:3]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[H:13],-1.94837484771
[C:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[H:10]>>[C:1]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[H:10].[C:2],3.22666429653
